US07820837B2
ethyl 4-[5-(benzyloxy)-2-formylphenoxy]butyrate
4-(Benzyloxy)-2-hydroxybenzaldehyde (5.8 g), ethyl 4-bromobutyrate (7.1 mL), potassium carbonate (10.5 g) and sodium iodide (3.8 g) were added to N,N-dimethylformamide (50 mL), and the mixture was stirred overnight at room temperature. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine and dried over magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane) to give the title compound (8.2 g) as an oil.

reactant | 4-(Benzyloxy)-2-hydroxybenzaldehyde | 5.8 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)O | C14H12O3
reactant | ethyl 4-bromobutyrate | 7.1 mL | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 10.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 3.8 g | [I-].[Na+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 4-[5-(benzyloxy)-2-formylphenoxy]butyrate | 8.2 g | C(C1=CC=CC=C1)OC=1C=CC(=C(OCCCC(=O)OCC)C1)C=O | C20H22O5
